US07407964B2
(S)-6-Oxo-piperidine-1,2-dicarboxylic acid di-tert-butyl ester
To a vigorously stirred solution of RuCl3.H2O (2.39 g, 11.5 mmol) and NaIO4 (24.6 g, 115.0 mmol) in water (250 mL) was added (S)-piperidine-1,2-dicarboxylic acid di-tert-butyl ester (8.22 g, 28.8 mmol) in ethyl acetate (250 mL) at room temperature. After stirring for 4 h, the reaction mixture was partitioned and the aqueous layer washed with ethyl acetate. To the combined organic layers was added iPrOH (2.5 mL) and stirring was continued for 2 hours in order to destroy excess RuO4. The precipitate was removed by filtration through a pad of celite and the filtrate was evaporated under reduced pressure. The residue was purified by flash chromatography (30% ethyl acetate in hexane) to afford the title compound as a pale yellow oil, which crystallized upon standing (6.69 g, 78%): 1H NMR (400 MHz, CDCl3) δ 1.49 (9H, s), 1.52 (9H, s), 1.75-1.82 (2H, m), 1.97-2.06 (1H, m), 2.15-2.21 (1H, m), 2.41-2.61 (2H, m), 4.59 (1H, dd, J 3.5 Hz)

reactant | (S)-piperidine-1,2-dicarboxylic acid di-tert-butyl ester | 28.8 mmol, 8.22 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)OC(C)(C)C | C15H27NO4
reactant | water | 250 mL | O | H2O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | (S)-6-Oxo-piperidine-1,2-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1=O)C(=O)OC(C)(C)C | C15H25NO5
